US06897227B2
A mixture of 3-isopropylphenoxyacetic acid (prepared by the reaction of 3-isopropylphenol with chloroacetic acid in the presence of sodium hydroxide, 5.0 g, 25.8 mmol) and SOCl2 (5.0 mL, 8.2 g, 68.8 mmol) in 10 mL of benzene was refluxed for 2 h. Thereafter volatile materials were removed by vacuum distillation to give 3-isopropylphenoxyacetic acid chloride as a light brown oil. To an ice-bath cooled solution of 4-aminobutyric acid (5.3 g, 51.6 mmol, 2.0 eq) and NaOH (2.0 g, 51.6 mmol) in 60 mL of H2O and 80 mL of CH3CN were added drop-wise the acid chloride in 40 mL of CH3CN and NaHCO3 (3.3 g, 38.7 mmol, 1.5 eq) in 50 mL of H2O. The resulting mixture was stirred vigorously for 5 h.

reactant | 3-isopropylphenoxyacetic acid | C(C)(C)C=1C=C(OCC(=O)O)C=CC1 | C11H14O3
reactant | 3-isopropylphenol | C(C)(C)C=1C=C(C=CC1)O | C9H12O
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | SOCl2 | 68.8 mmol, 5.0 mL, 8.2 g | O=S(Cl)Cl | Cl2OS
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 3-isopropylphenoxyacetic acid chloride | C(C)(C)C=1C=C(OCC(=O)Cl)C=CC1 | C11H13ClO2
